US05246914
6-Pyrazolyl-2-(4,6-dimethoxypyrimidin-2-yloxy)-1-(N,N-dimethylaminooxycarbonyl)-benzene
At 10° C., 0.30 g (0.01 mol) of sodium hydride (80% strength) is added to a solution of 2.47 g (10 mmol) of 3-pyrazolyl-2-(N,N-dimethylaminooxycarbonyl)-phenol in 25 ml of anhydrous dimethylformamide, and the reaction mixture is stirred for 3 hours at 30° C. 2.18 g (0.01 mol) of 2-methylsulfonyl-4,6-dimethoxypyrimidine is added and the mixture is stirred for 12 hours at room temperature. The reaction mixture is introduced into 500 ml of water to which 2.5 ml of orthophosphoric acid has previously been added. The oil which separates out is taken up in ethyl acetate and dried over sodium sulfate. The greasy residue remaining after evaporation is purified to give a colorless solid.

reactant | sodium hydride | 0.01 mol, 0.30 g | [H-].[Na+]
reactant | 3-pyrazolyl-2-(N,N-dimethylaminooxycarbonyl)-phenol | 10 mmol, 2.47 g | N1N=C(C=C1)C=1C(=C(C=CC1)O)C(=O)ON(C)C | C12H13N3O3
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 0.01 mol, 2.18 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | orthophosphoric acid | 2.5 ml | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 6-Pyrazolyl-2-(4,6-dimethoxypyrimidin-2-yloxy)-1-(N,N-dimethylaminooxycarbonyl)-benzene | N1N=C(C=C1)C1=CC=CC(=C1C(=O)ON(C)C)OC1=NC(=CC(=N1)OC)OC | C18H19N5O5
